US09422331B2
A rt solution of tert-butyl(3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (316 mg, 598 μmol) in 4 M HCl in dioxane (2.99 ml) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (3S,4S)-5-acetyl-3-amino-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (216 mg, 78%) as a white solid.

reactant | tert-butyl(3S,4S)-5-acetyl-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 598 μmol, 316 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | C30H32N4O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 2.99 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (3S,4S)-5-acetyl-3-amino-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 216 mg, 78% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)N)=O)CC1=C(C=CC3=CC=CC=C13)OC)C=CC(=C2)C#N | InChI=1S/C25H24N4O3.ClH/c1-15-24(27)25(31)28(21-10-8-17(13-26)12-22(21)29(15)16(2)30)14-20-19-7-5-4-6-18(19)9-11-23(20)32-3;/h4-12,15,24H,14,27H2,1-3H3;1H/t15-,24-;/m0./s1
